US09371282B2
4,6-Dimethyl-[1,7]naphthyridin-8-ol (1.26 g, 7.23 mmol) and phosphorus oxychloride (6.7 mL, 72 mmol) in toluene (18 mL) are heated at 100° C. overnight. Phosphorus oxychloride (20 mL, 215 mmol) is added and the reaction mixture is heated at 104° C. for 1 d. The reaction mixture is cooled to RT and poured in a mixture of ice and water under stirring. After 30 min 20% NaOH is added until pH 6-7. The aqueous layer is extracted with DCM and the combined organic layers are washed with brine, dried and evaporated under reduce pressure to give a residue that is purified by flash chromatography (eluent 0-50% EtOAc/cyclohexane) to furnish 8-chloro-4,6-dimethyl-[1,7]naphthyridine (920 mg, 66%).

reactant | 4,6-Dimethyl-[1,7]naphthyridin-8-ol | 7.23 mmol, 1.26 g | CC1=CC=NC2=C(N=C(C=C12)C)O | C10H10N2O
reactant | phosphorus oxychloride | 72 mmol, 6.7 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Phosphorus oxychloride | 215 mmol, 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 8-chloro-4,6-dimethyl-[1,7]naphthyridine | 920 mg, 66% | ClC=1N=C(C=C2C(=CC=NC12)C)C | C10H9ClN2
